US06239131B1
Preparation of (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid
(R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea (100 mg) was dissolved in methylene chloride (1 ml), trifluoroacetic acid (1 ml) was added, the mixture was stirred at room temperature for 30 minutes. After the solvent was evaporated, isopropyl ether was added to the residue, powder so precipitated was collected by filtration, to thereby obtain 50 mg of the title compound.

reactant | (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea | 100 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O | C34H46N4O5
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid | 50 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C30H38N4O5
